US07772268B2
3-Oxo-3H-indazole-1,2-dicarboxylic acid bis(2-methylbenzylamide)
In analogy to example 11, 300 mg (2.24 mmol) of 1H-indazol-3-ol were reacted with 395.5 mg (2.69 mmol) of 1-isocyanatomethyl-2-methylbenzene. Yield: 177 mg (18%), M+H+: 429.26.

reactant | 1H-indazol-3-ol | 2.24 mmol, 300 mg | N1N=C(C2=CC=CC=C12)O | C7H6N2O
reactant | 1-isocyanatomethyl-2-methylbenzene | 2.69 mmol, 395.5 mg | N(=C=O)CC1=C(C=CC=C1)C | C9H9NO
product | 3-Oxo-3H-indazole-1,2-dicarboxylic acid bis(2-methylbenzylamide) | CC1=C(CNC(=O)N2N(C(C3=CC=CC=C23)=O)C(=O)NCC2=C(C=CC=C2)C)C=CC=C1 | C25H24N4O3
